US07361671B2
A mixture of 5-hydroxymethyl-thiophene-3-carboxylic acid (14.5 g, 91.7 mmol), concentrated H2SO4 (5.2 mL, 93.5 mmol) and methanol (250 mL) is heated to reflux for 3.5 h. After cooling, the mixture is poured into water and extracted with dichloromethane (3×). The combined extracts are washed successively with saturated aq NaCl, aq NaHCO3 and water followed by drying over Na2SO4, filtration and concentration in vacuo. The residue is purified by distillation to give 5-hydroxymethyl-thiophene-3-carboxylic acid methyl ester (8.8 g, 56%) as a clear oil: bp 155-157° C./6-7 mbar; 1H NMR (CDCl3, 300 MHz) δ 7.98 (s, 1 H), 7.35 (s, 1 H), 4.78 (s, 2 H), 3.80 (s, 3 H), 2.63 (s, 1 H).

reactant | 5-hydroxymethyl-thiophene-3-carboxylic acid | 91.7 mmol, 14.5 g | OCC1=CC(=CS1)C(=O)O | C6H6O3S
reactant | H2SO4 | 93.5 mmol, 5.2 mL | OS(=O)(=O)O | H2O4S
reactant | methanol | 250 mL | CO | CH4O
solvent | water | O | H2O
product | 5-hydroxymethyl-thiophene-3-carboxylic acid methyl ester | 8.8 g, 56% | COC(=O)C1=CSC(=C1)CO | C7H8O3S
